US08022206B2
tert-Butyl 4-(4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]furo[3,2-c]pyridin-3-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate
General procedure Q for N-alkylation/acylation, using isocyanate, chloroformate, and sulfonyl chloride species: To a solution of 7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[3,2-c]pyridin-6-amine dihydrochloride (10.6 mg, 0.0188 mmol, 1 eq) and DIPEA (26 μL, 0.15 mmol, 8 eq) in DMF (1 mL), one drop of the isocyanate, chloroformate, or sulfonyl chloride (approx. 0.0346 mmol, 1.8 eq) was added and the reaction was stirred at rt for 1 h. The DMF solution was syringe filtered and submitted directly to the analytical department for purification by MDPS. Fractions containing product were pooled together and all solvent was removed using the SpeedVac to give the title material.

reactant | isocyanate | [N-]=C=O
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[3,2-c]pyridin-6-amine dihydrochloride | 0.0188 mmol, 10.6 mg, 1 eq | Cl.Cl.ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2C=NN(C2)C2CCNCC2
reactant | DIPEA | 0.15 mmol, 26 μL, 8 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | sulfonyl chloride | approx. 0.0346 mmol, 1.8 eq | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | chloroformate | ClC(=O)[O-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | isocyanate | one drop | [N-]=C=O
product | tert-Butyl 4-(4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]furo[3,2-c]pyridin-3-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate | NC1=C(C2=C(C=N1)C(=CO2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C28H30Cl2FN5O4
